US05464847
N-propyl-α-methylbenzylamine (Compound 62)
Introduce 23 ml of propylamine into 200 ml of dimethylformamide, add 32 g of caesium carbonate and 9.25 g of α-methylbenzyl bromide. Leave for 4 hours at room temperature. Evaporate to dryness and take up with water. Extract with ethyl acetate, dry over anhydrous sodium sulphate and evaporate to dryness to obtain the expected product.

reactant | propylamine | 23 ml | C(CC)N | C3H9N
reactant | caesium carbonate | 32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | α-methylbenzyl bromide | 9.25 g | CC(C1=CC=CC=C1)Br | C8H9Br
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-propyl-α-methylbenzylamine | Yield: 95% | C(CC)NC(C1=CC=CC=C1)C | C11H17N
